US06787652B1
2-[3,5-Dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-4-(2-trimethylsilanylethoxymethyl)-2H-[1,2,4]triazine-3,5-dione
To a solution of 2-[3,5-dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-2H-[1,2,4]-triazin-3,5-dione (1.32 g, 3.1 mmol) in 12 mL of DMF at 0° C. was added sodium hydride (60% dispersion in mineral oil, 0.15 g, 3.7 mmol). After stirring at 0° C. for 5 min, the mixture was stirred at room temperature for 30 min as a clear reddish brown solution. To the solution at room temperature was added SEMCl (0.63 g, 3.74 mmol). After stirring at room temperature for 20 h, the solution was diluted with H2O (30 mL) and extracted with EtOAc (2×50 mL). The combined EtOAc extracts were washed with 1N HCl (100 mL), H2O (3×50 mL), brine (100 mL), dried and concentrated. The residue was dissolved in CH2Cl2followed by addition of ether to give the title compound (0.83 g) of Step A as light brown crystals. NMR (400 Mhz, CD3OD) d 0.02 (m, 9H), 1.01 (m, 2H), 3.75 (m, 2H), 5.45 (s, 2H).

reactant | 2-[3,5-dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-2H-[1,2,4]-triazin-3,5-dione | 3.1 mmol, 1.32 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)[N+](=O)[O-])Cl)N1N=CC(NC1=O)=O | C16H10Cl2N4O6
reactant | sodium hydride | 3.7 mmol, 0.15 g | [H-].[Na+]
reactant | SEMCl | 3.74 mmol, 0.63 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
product | 2-[3,5-Dichloro-4-(4-methoxy-3-nitro-phenoxy)-phenyl]-4-(2-trimethylsilanylethoxymethyl)-2H-[1,2,4]triazine-3,5-dione | 0.83 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)[N+](=O)[O-])Cl)N1N=CC(N(C1=O)COCC[Si](C)(C)C)=O | C22H24Cl2N4O7Si
